US05270311
To an ice-cold solution of 1-propylamine (9 g) in water (50 ml) was added solution of 4-acetoxyphenylacetyl chloride (10.6 g) in diethyl ether (100 ml), keeping the temperature of the mixture between 15° and 250° C. with external cooling. The ether layer was separated, washed with brine and evaporated to give N-(1-propyl)-4-acetoxyphenylacetamide as a pale yellow oil, essentially pure by TLC, which was used without further purification or characterisation.

reactant | 1-propylamine | 9 g | C(CC)N | C3H9N
reactant | 4-acetoxyphenylacetyl chloride | 10.6 g | C(C)(=O)OC1=CC=C(C=C1)CC(=O)Cl | C10H9ClO3
solvent | water | 50 ml | O | H2O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | N-(1-propyl)-4-acetoxyphenylacetamide | C(CC)NC(CC1=CC=C(C=C1)OC(C)=O)=O | C13H17NO3
